US04637997
A solution of 3.5 g of Boc-Ile (16 mmol) is reacted with 3.8 g of 1-hydroxybenzotriazole (2.4 mmol) and 3.7 g of N,N'-dicyclohexylcarbodiimide (18 mmol) for 1 hour at 0° C., and then the solution of Pro-Tyr-OMe in 15 cm3 of dimethylformamide, prepared earlier, is added. After stirring for 1 hour at 0° C. and then for 10 hours at 20° C., the precipitate of dicyclohexylurea is separated off by filtration and the filtrate is concentrated. The residue obtained is dissolved in ethyl acetate and the solution obtained is washed successively with a 1M solution of citric acid, a solution of sodium bicarbonate and a solution of sodium chloride. The organic layer is dried over sodium sulphate. After removal of the solvent, the crude product is purified by chromatography on a column of silica gel (height 45 cm, diameter 2.5 cm), by eluting with ethyl acetate and mixtures of ethyl acetate with hexane. 3.8 g of Boc-Ile-Pro-Tyr-OMe are obtained, the properties of which are as follows:

reactant | Boc-Ile | 16 mmol, 3.5 g | N([C@@H]([C@@H](C)CC)C(=O)O)C(=O)OC(C)(C)C | C11H21NO4
reactant | 1-hydroxybenzotriazole | 2.4 mmol, 3.8 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N,N'-dicyclohexylcarbodiimide | 18 mmol, 3.7 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | Pro-Tyr-OMe | N1[C@H](C(=O)N[C@@H](CC2=CC=C(C=C2)O)C(=O)OC)CCC1 | C15H20N2O4
solvent | dimethylformamide | 15 cm3 | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Boc-Ile-Pro-Tyr-OMe | 3.8 g | N([C@@H]([C@@H](C)CC)C(=O)N1[C@H](C(=O)N[C@@H](CC2=CC=C(C=C2)O)C(=O)OC)CCC1)C(=O)OC(C)(C)C | C26H39N3O7
